* /// IP62 Model File ///
* /// models_IP62_res_v5  ///
* /// 2025.08.19 ARAKAWA Natsuki ///

* simulator lang=spectre


*//// RR  ////////////////////////////////////////////////////////////////////////

.subckt F_RR PLUS MINUS SUB
.param w=1u r=1 l=1u tc1=0 tc2=0 tnom=27
.param eps=1e-9 xmax=20 emax=5 rmin=1e-3 rmax=1e12
.param LUM='l*1e6'

.func LIM(x,lo,hi) {min(max(x,lo),hi)}
.func XSUB(x) {LIM(x,-xmax,xmax)}
.func EFIELD(vd) {min(abs(vd)/LUM,emax)}
.func VDEP(e,a,b,c) {max(1+a*e+b*e**2+c*e**3,eps)}
.func SUBDEP(x,s1,s2,s3,s4) {max(1+s1*x+s2*x**2+s3*x**3+s4*x**4,eps)}
.func RSAFE(x) {LIM(x,rmin,rmax)}

.if (w == 4u)
.param RTEMP_4='1+0.00105*(temper-tnom)+2.4e-6*(temper-tnom)**2'
.param RBASE_4='((834.54*magRR)*(LUM-9.2)/(4-1.09)+(13.3*(9.2/(4-1.09)+3.38/(4-1.8))+2.79))+(-21*3.95+615.2)'
.param S1_4='0.000949*log(4)-0.00559'
.param S2_4='-3.2478e-6*log(4)+5.28e-5'
.param S3_4='-7.97e-7*log(4)+3.05e-6'
.param S4_4='-3e-9*log(4)+1.2394e-8'
r0 PLUS MINUS r = 'RSAFE(RTEMP_4*RBASE_4*VDEP(EFIELD(v(PLUS,MINUS)),-0.09,0.19,-0.02)/SUBDEP(XSUB(v(SUB)-(v(MINUS)+v(PLUS))/2),S1_4,S2_4,S3_4,S4_4))'
c_d0 PLUS SUB  c='(7.06e-4*LUM+6.89e-3)*1e-12'
c_d1 MINUS SUB c=0


.elseif (w == 6u)
.param RTEMP_6='1+0.00105*(temper-tnom)+2.4e-6*(temper-tnom)**2'
.param RBASE_6='((834.54*magRR)*(LUM-9.2)/(6-1.09)+(13.3*(9.2/(6-1.09)+3.38/(6-1.8))+2.79))+(-21*4.0+366.4)'
.param S1_6='0.000639*log(6)-0.00559'
.param S2_6='-1.03248e-6*log(6)+5.28e-5'
.param S3_6='-9.9798e-7*log(6)+4.05e-6'
.param S4_6='-3e-9*log(6)+1.9394e-8'
r0 PLUS MINUS r = 'RSAFE(RTEMP_6*RBASE_6*VDEP(EFIELD(v(PLUS,MINUS)),-0.1,0.25,-0.02)/SUBDEP(XSUB(v(SUB)-(v(MINUS)+v(PLUS))/2),S1_6,S2_6,S3_6,S4_6))'
c_d0 PLUS SUB  c='(8.99e-4*LUM+7.98e-3)*1e-12'
c_d1 MINUS SUB c=0


.elseif (w == 12u)
.param RTEMP_12='1+0.00105*(temper-tnom)+2.4e-6*(temper-tnom)**2'
.param RBASE_12='((834.54*magRR)*(LUM-9.2)/(12-1.09)+(13.3*(9.2/(12-1.09)+3.38/(12-1.8))+2.79))+(-21*11.9+368.9)'
.param S1_12='0.003599*log(12)-0.0129'
.param S2_12='1.03248e-5*log(12)+1.5764e-5'
.param S3_12='-9.9788e-7*log(12)-9.4884e-7'
.param S4_12='2.1996e-8*log(12)+1.2939e-7'
r0 PLUS MINUS r = 'RSAFE(RTEMP_12*RBASE_12*VDEP(EFIELD(v(PLUS,MINUS)),-0.21,0.44,-0.032)/SUBDEP(XSUB(v(SUB)-(v(MINUS)+v(PLUS))/2),S1_12,S2_12,S3_12,S4_12))'
c_d0 PLUS SUB  c='(1.47e-3*LUM+1.31e-2)*1e-12'
c_d1 MINUS SUB c=0


.elseif (w == 20u)
.param RTEMP_20='1+0.00105*(temper-tnom)+2.4e-6*(temper-tnom)**2'
.param RBASE_20='((834.54*magRR)*(LUM-9.2)/(20-1.09)+(13.3*(9.2/(20-1.09)+3.38/(20-1.8))+2.79))+(-21*20.1+495.8)'
.param S1_20='0.003499*log(20)-0.01299'
.param S2_20='1.73248e-5*log(20)+4.5764e-5'
.param S3_20='-2.09788e-6*log(20)-8.4884e-7'
.param S4_20='1.996e-8*log(20)+5.9395e-8'
r0 PLUS MINUS r = 'RSAFE(RTEMP_20*RBASE_20*VDEP(EFIELD(v(PLUS,MINUS)),-0.15,0.46,-0.02)/SUBDEP(XSUB(v(SUB)-(v(MINUS)+v(PLUS))/2),S1_20,S2_20,S3_20,S4_20))'
c_d0 PLUS SUB  c='(2.19e-3*LUM+2.19e-2)*1e-12'
c_d1 MINUS SUB c=0


.elseif (w == 2.8u)
.param RTEMP_28='1+0.00105*(temper-tnom)+2.7e-6*(temper-tnom)**2'
.param RBASE_28='-0.1716*LUM**2+486.5*LUM-3605.5'
.param S1_28='0.007099*log(2.8)-0.01299'
.param S2_28='3.73248e-5*log(2.8)+4.0764e-5'
.param S3_28='-1.09788e-6*log(2.8)-8.4884e-7'
.param S4_28='1.90976e-8*log(2.8)+1.0839e-7'
r0 PLUS MINUS r = 'RSAFE(RTEMP_28*RBASE_28*SUBDEP(XSUB(v(SUB)-(v(MINUS)+v(PLUS))/2),S1_28,S2_28,S3_28,S4_28)/VDEP(EFIELD(v(PLUS,MINUS)),-0.17,0.19,-0.011))'
c_d0 PLUS SUB  c='(5.96e-4*LUM+8.07e-3)*1e-12'
c_d1 MINUS SUB c=0
.endif

.ends F_RR



* //// RS  ////////////////////////////////////////////////////////////////////////

.subckt F_RS PLUS MINUS
.param w=1u r=1 l=1u tnom=27
.param eps=1e-9 emax=5 rmin=1e-3 rmax=1e12
.param LUM='l*1e6'

.func LIM(x,lo,hi) {min(max(x,lo),hi)}
.func EFIELD(vd) {min(abs(vd)/LUM,emax)}
.func VDEP(e,a,b,c) {max(1+a*e+b*e**2+c*e**3,eps)}
.func RSAFE(x) {LIM(x,rmin,rmax)}

.if (w == 4u)
.param RBASE4='95.0*magRS*LUM/4+2.79+705.9*4**(-1.298)'
r PLUS MINUS r = 'RSAFE(RBASE4*VDEP(EFIELD(v(PLUS,MINUS)),-0.0112,-0.229,1.99))'


.elseif (w == 6u)
.param RBASE6='95.0*magRS*LUM/6+2.79+707.5*6**(-1.35)'
r PLUS MINUS r = 'RSAFE(RBASE6*VDEP(EFIELD(v(PLUS,MINUS)),-0.148,1.41,-0.56))'


.elseif (w == 12u)
.param RBASE12='95.0*magRS*LUM/12+2.79+707.5*12**(-2)'
r PLUS MINUS r = 'RSAFE(RBASE12/VDEP(EFIELD(v(PLUS,MINUS)),-0.156,1.96,-0.68))'


.elseif (w == 20u)
.param RBASE20='95.0*magRS*LUM/20+2.79+701.9*20**(-1.224)'
r PLUS MINUS r = 'RSAFE(RBASE20*VDEP(EFIELD(v(PLUS,MINUS)),-0.26,2.05,-0.5))'
.endif

.ends F_RS


